US04177057
1-ethyl-2-methyl-5-methylsulfonyl-6-chloro-7-aminobenzimidazole
1-Ethyl-2-methyl-5-methylsulfonyl-6-chloro-7-nitrobenzimidazole (2.50 g.) was combined with 75 ml. of methanol and 0.2 g. of 87% platinum oxide catalyst in a hydrogenation bottle. The bottle was charged with 37 psi of hydrogen and shaken at room temperature for 22.5 hours. The resultant reaction mixture was filtered to remove the catalyst and the filtrate evaporated to dryness under reduced pressure to give 2.27 g. (100%) of the desired 7-amino derivative, melting at 179°-186° C.

reactant | 1-Ethyl-2-methyl-5-methylsulfonyl-6-chloro-7-nitrobenzimidazole | 2.50 g | C(C)N1C(=NC2=C1C(=C(C(=C2)S(=O)(=O)C)Cl)[N+](=O)[O-])C | C11H12ClN3O4S
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | [Pt]=O
solvent | methanol | CO | CH4O
product | 1-ethyl-2-methyl-5-methylsulfonyl-6-chloro-7-aminobenzimidazole | C(C)N1C(=NC2=C1C(=C(C(=C2)S(=O)(=O)C)Cl)N)C | C11H14ClN3O2S
